US05945209
With 6.3 g of 8-amino-1-naphthol and 20 ml of ethanol, 8.1 g of 5-undecanone was mixed. The mixture was refluxed for 3 hours. The reaction mixture was condensed, and purified in a column chromatography (silica gel, n-hexane/ethyl acetate=1/6) to obtain 2.6 g of naphthooxazinine.

reactant | 8-amino-1-naphthol | 6.3 g | NC=1C=CC=C2C=CC=C(C12)O | C10H9NO
reactant | 5-undecanone | 8.1 g | CCCCC(CCCCCC)=O | C11H22O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | naphthooxazinine | 2.6 g | C1=CNOC2=C1C1=CC=CC=C1C=C2 | C12H9NO
